US06720322B2
To a solution of 2.15 g of 4,6-dichloro-5-(o-methoxyphenoxy)-2-methyl-pyrimidine in 40 ml of DMSO was added 3.59 g of 5-isopropyl-2-pyridine sulfonamide potassium salt. The mixture was stirred for 72 h at room temperature. The solution was diluted with 350 ml of water and extracted twice with 200 ml of diehtyl ether. The organic layers were extracted twice with water. The combined aqueous layers were acidified to pH 4 with 5 ml of acetic acid and extracted twice with DCM. The organic layers were washed with water, and dried over Na2SO4. The solution was treated with activated charcoal, filtered over Celite and evaporated. The residue was suspended in 30 ml of diethyl ether, filtered off and dried to give 3.15 g of 5-isopropyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-methyl-4-pyrimidinyl]-2-pyridine sulfonamide as a pale beige powder. LC-MS: tR=5.18 min, [M+1]+=449.25, [M−1]−=447.31.

reactant | 4,6-dichloro-5-(o-methoxyphenoxy)-2-methyl-pyrimidine | 2.15 g | ClC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C | C12H10Cl2N2O2
reactant | 5-isopropyl-2-pyridine sulfonamide potassium salt | 3.59 g | [K+].C(C)(C)C=1C=CC(=NC1)S(=O)(=O)[NH-]
solvent | DMSO | 40 ml | CS(=O)C | C2H6OS
solvent | water | 350 ml | O | H2O
product | 5-isopropyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-methyl-4-pyrimidinyl]-2-pyridine sulfonamide | 3.15 g | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C | C20H21ClN4O4S
